US07851493B2
To a solution of 2.76 g of 4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester in 50 mL of tetrahydrofuran was added 6.14 mL of a 1M solution of lithium aluminium hydride in tetrahydrofuran. The resulting mixture was stirred at room temperature for 1 h. Ethyl acetate was added followed by a saturated aqueous solution of ammonium chloride. The aqueous layer was separated and extracted three times with ethyl acetate. The combined organic extracts were washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (heptane 70/ethyl acetate 30) to give 1.69 g of [4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol as a white solid.

reactant | 4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid ethyl ester | 2.76 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CCCOCC1=CC=CC=C1 | C23H22F3NO3S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | [4-(3-benzyloxy-propyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-methanol | 1.69 g | C(C1=CC=CC=C1)OCCCC=1N=C(SC1CO)C1=CC=C(C=C1)C(F)(F)F | C21H20F3NO2S
